US05962458
Using an analogous procedure to that described in Example 38, 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (319.5 mg, 1 mmol), (prepared as described for the starting material in Example 24), was reacted with 2-(chloromethyl)pyridine hydrochloride (310 mg, 1.9 mmol) to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-((2-pyridyl)methoxy)quinazoline (146 mg, 33%).

reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 1 mmol, 319.5 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | 2-(chloromethyl)pyridine hydrochloride | 1.9 mmol, 310 mg | Cl.ClCC1=NC=CC=C1
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-((2-pyridyl)methoxy)quinazoline | 146 mg, 33% | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=NC=CC=C2)C=C1)F | C21H16ClFN4O2
